US05663200
15b) 5(S)-(Boc-Amino)-4(S)-hydroxy-6-cyclohexyl-2(R)-[(4-benzyloxyphenyl)methyl]hexanoic acid
2.4 g (4.728 mmol) of 3(R)-[(4-benzyloxyphenyl)methyl]-5(S)-[1(S)-(Boc-amino)-2-cyclohexylethyl]dihydrofuran-2-one in 10 ml of dimethoxyethane are hydrolysed, under a protective gas, with 9.45 ml of a 1M solution of lithium hydroxide. After 17 h at RT, the reaction mixture is treated with an ice-cold mixture of 324 ml of sat. NH4Cl solution, 27 ml of 10% citric acid solution and 134 ml of methylene chloride. Methanol is added in order to dissolve the product completely. The aqueous phase is separated off and extracted 2× with methylene chloride. The organic phases are washed with saline, dried with Na2SO4 and evaporated. The crude product is purified by column chromatography (SiO2, eluent C), with the title compound being obtained. TLC Rf (C)=0.35; tRet (II)=17.88 min. FAB-MS (M+H+)=526.

reactant | 3(R)-[(4-benzyloxyphenyl)methyl]-5(S)-[1(S)-(Boc-amino)-2-cyclohexylethyl]dihydrofuran-2-one | 4.728 mmol, 2.4 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C[C@H]1C(O[C@@H](C1)[C@H](CC1CCCCC1)NC(=O)OC(C)(C)C)=O | C31H41NO5
reactant | lithium hydroxide | [OH-].[Li+]
reactant | NH4Cl | 324 ml | [NH4+].[Cl-]
reactant | citric acid | 27 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | dimethoxyethane | 10 ml | C(OC)COC | C4H10O2
solvent | Methanol | CO | CH4O
solvent | methylene chloride | 134 ml | C(Cl)Cl | CH2Cl2
product | 5(S)-(Boc-Amino)-4(S)-hydroxy-6-cyclohexyl-2(R)-[(4-benzyloxyphenyl)methyl]hexanoic acid | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=CC=C(C=C1)OCC1=CC=CC=C1)O)CC1CCCCC1 | C31H43NO6
